datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[S:12]=[C:13]([C:14]([S:15][H:18])[H:17])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:14]([C:13](=[S:12])[H:16])([S:15][H:18])[H:17],74.0568
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8]([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:8]([H:9])([H:10])[H:11])[H:6],20.7108
[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0](=[C:1]([H:11])[H:12])([H:9])[H:10].[C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14],95.83452
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[S:15]=[C:16]([S:17][H:19])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:18])[H:8])([H:6])[H:7].[S:15]=[C:16][S:17][H:19],80.3328
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([C:8]([C:9]([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])([H:21])[H:22])([H:19])[H:20])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([H:19])([H:20])[C:8]([H:21])([H:22])[C:9]1([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])[H:12],94.8094
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:6],43.2207
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8](=[S:9])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:10])[H:4].[C:7]([C:8](=[S:9])[H:13])([H:11])[H:12],14.2256
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:8])([H:9])[H:10].[O:18][H:19]>>[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:9])[H:10].[H:8][O:18][H:19],-2.518768
[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([O:5][O:6][H:19])([H:17])[H:18])[O:7][O:8])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([O:5][O:6][H:19])([H:17])[H:18])[O:7][O:8][H:12])[H:13])([H:9])([H:10])[H:11],125.9384
[N:0][N:1]([H:2])[H:3].[O:4][H:5]>>[H:2][O:4][H:5].[N:0]=[N:1][H:3],-4.97896
[C:0]([C:1]=[N:2][H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[H:6][C:7]([H:8])([H:9])[H:10],-4.656792
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11]=[S:12])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11]([C:10]([H:13])([H:14])[H:15])=[S:12],38.4928
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[S:7]([H:8])[H:9]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:8])[H:4].[S:7][H:9],36.8192
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[c:29]1[c:30]([H:35])[c:31]([H:36])[c:32]([H:37])[c:33]([H:38])[c:34]1[H:39]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[c:29]1[c:30]([H:35])[c:31]([H:36])[c:32]([H:37])[c:33]([H:38])[c:34]1[H:39])([H:15])([H:16])[H:17],9.07928
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([O:18][O:19])([H:27])[H:28])[H:23])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:19][O:18][C:17]([C:15]([C:14]([H:20])([H:21])[H:22])([C:16]([H:24])([H:25])[H:26])[H:23])([H:27])[H:28],85.60464
[C:0]([N:1]([H:4])[H:5])([H:2])[H:3].[O:6][H:7]>>[C:0](=[N:1][H:5])([H:2])[H:3].[H:4][O:6][H:7],-4.97896
[O:0][O:1][C:2]([C:3]([O:4][H:9])([H:7])[H:8])([H:5])[H:6]>>[C:2]([C:3]([O:4][H:9])([H:7])[H:8])([H:5])[H:6].[O:0][O:1],125.52
[C:0](=[C:1]([c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12)[H:13])[H:12]>>[C:0](#[C:1][c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12)[H:12].[H:13],161.807832
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([H:7])([H:8])[H:9]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:6]([H:7])([H:8])[H:9],86.6506
[C:0](#[C:1][N:2]([H:4])[H:5])[H:3].[H:6]>>[C:0](#[C:1][N:2][H:5])[H:3].[H:4][H:6],40.609904
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[C:15]([O:16])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:12][O:16][C:15]([H:17])([H:18])[H:19],19.125064
